US08664258B2
Step B: 5-Methyl-isoxazole-3-carboxylic acid [4-((S)-2-amino-propoxy)-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenyl]-amide (Compound 138)
Weighed polymer supported Triphenylphosphine (181 mg, 271 μmol, 3 eq; 1.5 mmol/gm) into a 20 mL scintillation vial; capped and flushed with nitrogen. The resin was then suspended in 2.0 mL dry THF and mixed in a rotary shaker for 2 minutes. N-(3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-hydroxyphenyl)-5-methylisoxazole-3-carboxamide (30.00 mg, 90.20 μmol) was added. The suspension was mixed briefly then DIAD (diisopropyl azodicarboxylate, 27.94 μl, 144 μmol) was added. After 30 minutes in a rotary shaker a solution of (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (19.75 mg. 112.7 μmol) in 0.5 mL of dry THF was added. The resulting suspension was heated to 65° C. and mixed overnight. LCMS showed that the reaction did not go to completion. A fresh batch of DIAD (27.94 μl, 144.3 μmol) and (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (19.75 mg. 112.7 μmol) were added to the reaction mixture and the suspension was heated to 65° C. and mixed overnight. The suspension was filtered and the resin washed with THF (3×3 mL). The filtrate and washings were combined and concentrated under vacuum. The resulting residue was dissolved in 20% TFA in DCM (2.0 mL), heated to 65° C. and mixed in a rotary shaker for 1.0 hour. The organic solvent was removed under vacuum and the crude residue was dissolved in acetonitrile (0.8 mL), neutralized with saturated NaHCO3 and subjected to purification by preparative LCMS. The desired fractions were pooled, frozen and lyophilized to afford the title compound as an off-white solid (21.34% yield). LCMS m/z=390.3 (M+H); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (d, J=6.82 Hz, 3 H), 2.54 (s, 3 H), 3.46-3.57 (m, 1 H), 3.66 (bs, 3 H), 3.95-4.16 (m, 2 H), 6.66 (s, 1 H), 7.35 (dd, J=9.09, 2.53 Hz, 1 H), 7.66 (s, 1 H), 7.74 (d, J=2.53 Hz, 1 H), 7.95 (dd, J=9.09, 2.53 Hz, 1 H), 7.97-8.04 (bs, 2 H), 10.76 (s, 1 H).

reactant | Triphenylphosphine | 271 μmol, 181 mg, 3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-hydroxyphenyl)-5-methylisoxazole-3-carboxamide | 90.20 μmol, 30.00 mg | ClC=1C=NN(C1C=1C=C(C=CC1O)NC(=O)C1=NOC(=C1)C)C | C15H13ClN4O3
reactant | DIAD | 144 μmol, 27.94 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 112.7 μmol, 19.75 mg | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | DIAD | 144.3 μmol, 27.94 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 112.7 μmol, 19.75 mg | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 5-Methyl-isoxazole-3-carboxylic acid [4-((S)-2-amino-propoxy)-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenyl]-amide | 21.34% yield | N[C@H](COC1=C(C=C(C=C1)NC(=O)C1=NOC(=C1)C)C=1N(N=CC1Cl)C)C | C18H20ClN5O3
